US08440689B2
B. Ethyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate
A mixture of ethyl 2-chloro-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate (96.3 mg, 0.214 mmol), tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (58.14 mg, 0.271 mmol) and Et3N (0.030 mL, 0.214 mmol) in DMA (2 mL) was stirred at 80° C. for 3 h. Saturated aq NaHCO3 was added to the mixture, which was extracted with EtOAc. The combined organic layers were washed with aqueous NaHCO3, water, and brine, were dried over anhydrous Na2SO4, and then filtered through SiO2. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (SiO2, hexanes/EtOAc=3/1) to give the title compound as a yellow oil (123.8 mg, 92%). 1H NMR (400 MHz, CDCl3) δ ppm 1.12-1.71 (m, 20H), 2.33 (s, 3H), 3.39-3.57 (m, 1H), 3.84-3.99 (m, 1H), 4.42 (q, J=7.2 Hz, 2H), 4.55-4.79 (m, 1H), 5.16 (s, 2H), 5.41 (br s, 1H), 6.87-6.89 (m, 1H), 7.16-7.49 (m, 3H), 7.74-7.75 (m, 2H), 7.90-7.91 (m, 2H), 10.68-10.81 (m, 1H). [M+H] calc'd for C34H41N6O6, 629. found, 629.

reactant | ethyl 2-chloro-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.214 mmol, 96.3 mg | ClC1=NC(=C(C(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC)NC=1C=C(C=CC1)C | C23H19ClN4O4
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.271 mmol, 58.14 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | Et3N | 0.214 mmol, 0.030 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 123.8 mg, 92% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC)NC=1C=C(C=CC1)C | C34H40N6O6
